### ISSUE TITLE
`simp?` after a focus dot produces incorrectly indented lines

### ISSUE THREAD

**Issue by MichaelStollBayreuth** [leanprover/lean4#6163]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When `simp?` appears directly after a focus dot, clicking on the "Try this:" suggestion inserts code where the second and following lines are at the same indentation as the first, instead of indented by two additional spaces.

MWE:
```lean
@[simp]
theorem a_lemma_with_a_very_loooooooooooooooooooooooooooooooooooooooooooong_name (n : Nat) :
    2 * n = n + n := by
  exact Nat.two_mul n

@[simp]
theorem another_lemma_with_a_very_loooooooooooooooooooooooooooooooooooooooooooong_name (n : Nat) :
    1 + n = n + 1 :=
  Nat.add_comm ..

example (n : Nat) : 1 = 1 ∧ 1 + 2 * n = n + n + 1 := by
  constructor
  · rfl
  -- · simp? -- and then clicking on "Try this:" gives
  · simp only [a_lemma_with_a_very_loooooooooooooooooooooooooooooooooooooooooooong_name,
    another_lemma_with_a_very_loooooooooooooooooooooooooooooooooooooooooooong_name]
```

### Context

See the [discussion on Zulip](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Minor.20simp.3F.20annoyances/near/483736310).

### Steps to Reproduce

See the MWE above.

**Expected behavior:**
The second and following lines of the inserted code should be indented by two additional spaces.

**Actual behavior:**
All lines have the same indentation.

### Versions

Lean 4.14.0-rc2
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
